US08309394B2
N-Cyclohexyl-5,6-Acenaphthenedicarboxylic Acid Imide
A slurry of 5,6-acenaphthenedicarboxylic acid anhydride (33.6 g, 0.150 mol) (B. M. Trost, G. Michael Bright, Charles Frihart, and David Brittelli, Journal of the American Chemical Society, 93(3), 737-45 (1971); James J. Jordan, Jr; U.S. Pat. No. 3,935,226) in 175 ml of DMAc was treated with cyclohexylamine (34.2 ml, 0.300 mol) over one minute and a thick paste formed. This mixture was heated at 155-160° C. for 2 hours. The resulting deep green solution was poured into 2 liters of water. The mixture was stirred for 10 minutes and then was filtered. The accumulated solid was washed with water and air-dried to provide a yellow solid (45.1 g, 98.5%), mp 264-265° C. A portion (2.00 g) of this material was recrystallized from a mixture of n-propyl acetate and heptanes (200 ml, 1:1 v/v) to provide fine yellow needles (1.42 g, 70%), mp 266-267° C. Anal. Calcd for C20H19NO2: C, 78.66; H, 6.27; N, 4.59. Found C, 78.39; H, 6.15; N, 4.83.

reactant | 5,6-acenaphthenedicarboxylic acid anhydride | 0.150 mol, 33.6 g | C1CC2=CC=C3C=4C(=CC=C1C24)C(=O)OC3=O | C14H8O3
reactant | cyclohexylamine | 0.300 mol, 34.2 ml | C1(CCCCC1)N | C6H13N
reactant | water | 2 liters | O | H2O
solvent | DMAc | 175 ml | CC(=O)N(C)C | C4H9NO
product | N-Cyclohexyl-5,6-Acenaphthenedicarboxylic Acid Imide | 45.1 g, 98.5% | C1(CCCCC1)N=C(O)C1=CC=C2CCC3=CC=C(C1=C32)C(=O)O | C20H21NO3
